US07956069B2
The preparation of cis (+/−)-ethyl 4-(2-oxooctahydro-1H-benzimidazol-1-yl)-1,4′-bipiperidine-1′-carboxylate
To a solution of cis-(+/−)-1-piperidin-4-yloctahydro-2H-benzimidazol-2-one hydrochloride salt (150 mg, 0.58 mmol) in 5 mL MeOH was added ethyl 4-oxopiperidine-1-carboxylate (119 mg, 0.69 mmol) and potassium acetate (1 eq). The mixture was stirred at room temperature for 30 min and sodium cyanoborohydride (182 mg, 2.90 mmol) was added. The mixture was stirred at room temperature overnight and concentrated in vacuo. The residue was dissolved in 20 mL DICHLOROMETHANE, and was washed with water. Organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude was purified by High pH prep-LCMS to afford the desired racemic mixture as white solid (102 mg, 46%). MS (M+1): 379.3

reactant | cis-(+/−)-1-piperidin-4-yloctahydro-2H-benzimidazol-2-one hydrochloride salt | 0.58 mmol, 150 mg | Cl.N1CCC(CC1)N1C(N[C@H]2[C@@H]1CCCC2)=O
reactant | ethyl 4-oxopiperidine-1-carboxylate | 0.69 mmol, 119 mg | O=C1CCN(CC1)C(=O)OCC | C8H13NO3
reactant | potassium acetate | 1 eq | C(C)(=O)[O-].[K+]
reactant | sodium cyanoborohydride | 2.90 mmol, 182 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | cis (+/−)-ethyl 4-(2-oxooctahydro-1H-benzimidazol-1-yl)-1,4′-bipiperidine-1′-carboxylate | 102 mg, 46% | O=C1N[C@H]2[C@@H](N1C1CCN(CC1)C1CCN(CC1)C(=O)OCC)CCCC2 | C20H34N4O3
